US04933367
Ethyl 2-acetyl-7-(4-chlorophenyl)heptanoate
A solution of 6.0 g (46 mmol) of ethyl acetoacetate in 6 ml of absolute ethanol is added drop by drop, with stirring, to a solution of 23 mmol of sodium ethylate in 18 ml of ethanol. Stirring is continued for another 15 minutes to complete the salt formation, and then a solution of 6.0 g (23 mmol) of 5-(4-chlorophenyl)pentyl bromide in 6 ml of absolute ethanol is added. The mixture is then heated for 3 hours with refluxing, and then completely concentrated by evaporation. Water is added to the concentrate and the mixture is neutralized with 2N hydrochloric acid. Then the organic components are extracted with ether, the combined extracts are dried, and are concentrated by evaporation. The concentrate is chromatographed on silica gel with a mixture of n-heptane and butanone. Yield: 5.8 g (81% of theory) of ethyl 2-acetyl-7-(4-chlorophenyl)heptanoate, a colorless oil.

reactant | ethyl acetoacetate | 46 mmol, 6.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethylate | 23 mmol | CC[O-].[Na+]
reactant | 5-(4-chlorophenyl)pentyl bromide | 23 mmol, 6.0 g | ClC1=CC=C(C=C1)CCCCCBr | C11H14BrCl
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 18 ml | C(C)O | C2H6O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | Ethyl 2-acetyl-7-(4-chlorophenyl)heptanoate | C(C)(=O)C(C(=O)OCC)CCCCCC1=CC=C(C=C1)Cl | C17H23ClO3
